US04493843
A mixture of 3-(n-dodecanamido)-4-methylbenzoic acid (4 g), potassium tert-butoxide (4 g) and diethylaniline (10 ml) was treated in a similar manner to that hereinbefore described in Example 83 to give 2-(n-undecyl)indole-6-carboxylic acid (2.6 g), m.p. 156°-158° C.

reactant | 3-(n-dodecanamido)-4-methylbenzoic acid | 4 g | C(CCCCCCCCCCC)(=O)NC=1C=C(C(=O)O)C=CC1C | C20H31NO3
reactant | potassium tert-butoxide | 4 g | CC(C)([O-])C.[K+]
solvent | diethylaniline | 10 ml | CCN(CC)C=1C=CC=CC1 | C10H15N
product | 2-(n-undecyl)indole-6-carboxylic acid | 2.6 g | C(CCCCCCCCCC)C=1NC2=CC(=CC=C2C1)C(=O)O | C20H29NO2
